US07335671B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyl-oxazole, 1-ethyl-1,2-propanedione-2-oxime and 2,6-dimethylbenzaldehyde gave 4-iodomethyl-5-ethyl-2-(2,6-dimethylphenyl)oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyl-oxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | 1-ethyl-1,2-propanedione-2-oxime | C(C)C(C(C)=NO)=O | C5H9NO2
reactant | 2,6-dimethylbenzaldehyde | CC1=C(C=O)C(=CC=C1)C | C9H10O
product | 4-iodomethyl-5-ethyl-2-(2,6-dimethylphenyl)oxazole | ICC=1N=C(OC1CC)C1=C(C=CC=C1C)C | C14H16INO
